US08492549B2
A mixture of {(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-yl}-methanol (5.12 g, 18.5 mmol), 50% NaOH (125 ml) and tetrabutylammonium bromide (0.585 g, 1.8 mmol) was stirred at RT for 15 min and then heated up to 60° C. 2-(2-Bromoethoxy)tetrahydropyran (11.3 g, 54.0 mmol) was added to the reaction mixture at 60° C. during 2 h. After the addition the reaction mixture was stirred at 60° C. for 5 h. The reaction mixture was cooled down to RT and brine and water was added. The reaction mixture was extracted three times with toluene. The toluene phases were combined and washed twice with water and once with brine, dried (Na2SO4) and evaporated to give (S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methyl-3-[2-(tetra-hydropyran-2-yloxy)ethoxymethyl]piperidine. To remove the THP group, this compound was stirred in water (100 ml) and conc. HCl (10 ml) at RT for 3 h. The reaction mixture was washed twice with toluene and pH of the water phase was adjusted to 11-12 with NaOH. The alkaline phase was extracted twice with toluene. The combined extracts were washed twice with water and once with brine and dried (Na2SO4). Toluene was evaporated and EtOAc was added to the residue. EtOAc was evaporated to give 4.74 g of the crude title compound. A mixture of the crude title compound (4.6 g, 14.3 mmol), EtOAc (50 ml) and (−)-di-p-toluoyl-L-tartaric acid (5.53 g, 14.3 mmol) was stirred at 60° C. for 1 hour. The reaction mixture was cooled to RT and stirred for a few hours. The precipitate was filtered, washed with EtOAc and dried under vacuum at 80° C. The crude product (8.9 g, 12.6 mmol) was recrystallized from IPA (90 ml) to give 7.5 g of the di-p-toluoyl-L-tartrate salt of 2-{(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methyl-piperidin-3-ylmethoxy}ethanol. This salt was stirred in EtOAc (50 ml) and water (50 ml). The pH of the mixture was adjusted to 9 (1 M NaOH) and stirring was continued at RT for 30 min. The phases were separated and the water phase was extracted twice with EtOAc. The organic layers were combined, dried (Na2SO4) and evaporated to give 3.4 g of the pure title compound.

reactant | {(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-yl}-methanol | 18.5 mmol, 5.12 g | O1[C@H](COC2=C1C=CC=C2)CN2C[C@@](CCC2)(C)CO | C16H23NO3
reactant | NaOH | 125 ml | [OH-].[Na+]
reactant | 2-(2-Bromoethoxy)tetrahydropyran | 54.0 mmol, 11.3 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | water | O | H2O
catalyst | tetrabutylammonium bromide | 1.8 mmol, 0.585 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | brine | [Cl-].[Na+].O
product | (S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methyl-3-[2-(tetra-hydropyran-2-yloxy)ethoxymethyl]piperidine | O1[C@H](COC2=C1C=CC=C2)CN2C[C@](CCC2)(COCCOC2OCCCC2)C | C23H35NO5
